US06875765B2
(S)-2-(5-Chloro-imidazo[4,5-b]pyridin-3-yl)-1-methyl-ethanol was synthesized via the method used for (S)-1-Methyl-2-(6-methyl-benzimidazol-1-yl)-ethanol giving a tan solid. MS (APCI) m/z 212 (M). This fragment was used in the synthesis of N-[3-[(R)-2-(5-Chloro-imidazo[4,5-b]pyridin-3-yl)-1-methyl-ethoxy]-4-(2-ethoxy-5-oxo-tetrahydro-furan-3-ylsulfamoyl)-phenyl]-acetamide, which was synthesized via route J; a white solid, MS (APCI) m/z 552 (M). Analysis calculated for C23H26N5O7SCl (552.010): C, 50.05; H, 4.75; N, 12.69. Found: C, 50.40; H, 4.87; N, 11.99.

reactant | (S)-1-Methyl-2-(6-methyl-benzimidazol-1-yl)-ethanol | C[C@@H](CN1C=NC2=C1C=C(C=C2)C)O | C11H14N2O
reactant | N-[3-[(R)-2-(5-Chloro-imidazo[4,5-b]pyridin-3-yl)-1-methyl-ethoxy]-4-(2-ethoxy-5-oxo-tetrahydro-furan-3-ylsulfamoyl)-phenyl]-acetamide | ClC1=CC=C2C(=N1)N(C=N2)C[C@H](OC=2C=C(C=CC2S(NC2C(OC(C2)=O)OCC)(=O)=O)NC(C)=O)C | C23H26ClN5O7S
product | (S)-2-(5-Chloro-imidazo[4,5-b]pyridin-3-yl)-1-methyl-ethanol | ClC1=CC=C2C(=N1)N(C=N2)C[C@@H](O)C | C9H10ClN3O
